2151-05-13 07:40:00 Physician Resident Progress Note
Chief Complaint: CHIEF COMPLAINT: OSH transfer for gram positive
   bacteremia
   .
   REASON FOR CCU ADMISSION: NSTEMI with persistent chest pain despite
   nitro gtt
   24 Hour Events:
 EKG - At [**2151-5-12**] 10:00 PM
   Right and left sided EKG
 BLOOD CULTURED - At [**2151-5-13**] 05:15 AM
 BLOOD CULTURED - At [**2151-5-13**] 06:30 AM
   Converted to NSR with 1st degree AV delay
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Gentamicin - [**2151-5-13**] 12:20 AM
   Penicillin G potassium - [**2151-5-13**] 04:05 AM
   Infusions:
   Nitroglycerin - 3.5 mcg/Kg/min
   Other ICU medications:
   Metoprolol - [**2151-5-12**] 09:50 PM
   Morphine Sulfate - [**2151-5-13**] 05:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-5-13**] 07:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**53**] AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.1
C (96.9
   HR: 83 (64 - 85) bpm
   BP: 139/83(93) {123/66(77) - 143/93(105)} mmHg
   RR: 21 (20 - 23) insp/min
   SpO2: 98%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 106.9 kg (admission): 106.9 kg
   Height: 73 Inch
             Total In:
                                                                    372 mL
                                                                    721 mL
   PO:
                                                                    240 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    132 mL
                                                                    481 mL
   Blood products:
   Total out:
                                                                    225 mL
                                                                    200 mL
   Urine:
                                                                    225 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    147 mL
                                                                    522 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///26/
   Physical Examination
   GENERAL: NAD. Oriented x3. Mood, affect appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa.
   NECK: Supple JVP not elevated
   CARDIAC: PMI located in 5th intercostal space, midclavicular line.
   Irregular, normal S1, mechanical S2. II/VI systolic murmur at apex. No
   lifts. No S3 or S4.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. Moderate rhales bilaterally 1/2 up
   fields
   ABDOMEN: Soft, NTND. No HSM or tenderness.
   EXTREMITIES: No c/c/e. No peripheral stigmata of embolic disease except
   question of splinter hemorrhages on thumb nail bed
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   Labs / Radiology
   435 K/uL
   9.3 g/dL
   173 mg/dL
   0.9 mg/dL
   26 mEq/L
   3.9 mEq/L
   22 mg/dL
   95 mEq/L
   130 mEq/L
   27.8 %
   19.6 K/uL
        [image002.jpg]
                             [**2151-5-12**]  10:26 PM
                             [**2151-5-13**]  05:00 AM
   WBC
   19.6
   Hct
   27.8
   Plt
   435
   Cr
   0.9
   TropT
   0.34
   0.54
   Glucose
   173
   Other labs: PT / PTT / INR:36.0/37.1/3.7, CK / CKMB /
   Troponin-T:282/43/0.54, Ca++:7.9 mg/dL, Mg++:2.1 mg/dL, PO4:4.0 mg/dL
   Imaging: CSR Pending
   Microbiology: [**2151-5-13**] BLOOD CULTURE Blood Culture,
   Routine-PENDING INPATIENT
   [**2151-5-12**] MRSA SCREEN MRSA SCREEN-PENDING INPATIENT
   [**2151-5-12**] BLOOD CULTURE Blood Culture, Routine-PENDING
   INPATIENT
   [**2151-5-12**] BLOOD CULTURE Blood Culture, Routine-PENDING
   INPATIENT
   [**2151-5-11**] BLOOD CULTURE Blood Culture, Routine-PENDING
   INPATIENT
   [**2151-5-11**] BLOOD CULTURE Blood Culture, Routine-PENDING
   INPATIENT
   [**2151-5-10**] STOOL CLOSTRIDIUM DIFFICILE TOXIN A & B TEST-FINAL
   INPATIENT
   [**2151-5-10**] URINE URINE CULTURE-FINAL INPATIENT
   [**2151-5-10**] BLOOD CULTURE Blood Culture, Routine-PENDING
   INPATIENT
   [**2151-5-9**] BLOOD CULTURE Blood Culture, Routine-PENDING
   INPATIENT
   [**2151-5-9**] BLOOD CULTURE Blood Culture, Routine-PENDING
   INPATIENT
   [**2151-5-8**] BLOOD CULTURE Blood Culture, Routine-PENDING
   INPATIENT
   [**2151-5-8**] BLOOD CULTURE Blood Culture, Routine-PENDING
   INPATIENT
   [**2151-5-7**] BLOOD CULTURE Blood Culture, Routine-PENDING
   INPATIENT
   [**2151-5-7**] BLOOD CULTURE Blood Culture, Routine-PENDING
   INPATIENT
   [**2151-5-7**] BLOOD CULTURE Blood Culture, Routine-PENDING
   INPATIENT
   [**2151-5-6**] URINE URINE CULTURE-FINAL INPATIENT
   [**2151-5-6**] BLOOD CULTURE Blood Culture, Routine-FINAL
   INPATIENT
   [**2151-5-5**] BLOOD CULTURE Blood Culture, Routine-FINAL
   INPATIENT
   [**2151-5-5**] BLOOD CULTURE Blood Culture, Routine-FINAL
   INPATIENT
   Assessment and Plan
 ENDOCARDITIS, BACTERIAL
   ASSESSMENT AND PLAN: 61 y/o man with a significant cardiac history of
   rheumatic fever, AVR and CABG x2 (SVG to OM, SVG to RCA, 25 mm CE
   pericardial valve), and redo AVR/CABG with Dr. [**Last Name (STitle) 5649**] (St. [**Male First Name (un) 4721**] 21 mm
   mechanical AVR, SVG to PDA) in [**2147**] now transferred with gram positive
   bacteremia and suspicion for endocarditis now developing substernal
   chest pain concerning for ACS
   .
   # Chest pain: Patient with story consistent with unstable angina,
   convincing EKG changes and now new troponin elevation of 0.37,
   confirming the diagnosis of NSTEMI. The question is, is this myocardial
   damage caused by an plaque rupture, or a thromboembolic event? I favor
   the latter given the recent unexplained splenic infarction and high
   suspicion for endocarditis. Demand ischemia less likely as pt without
   tachycardia, hypotension.
   - Hold on cardiac cath this AM given resolution of chest pain and
   supratherapeutic INR
   - Increased aspirin from 81mg to 325mg PO Daily
   - Increased atorvastatin from 40mg to 80mg PO Daily
   - Wean nitro gtt, write for nitro PRN
   - Morphine 2-6mg IV Q4H PRN pain
   - Supplemental O2 to reduce myocardial demand
   - Hold metoprolol given worsening PR delay
   - Hold on heparin as pt with supratherapeutic INR and unlikely to help
   in thromboembolic mechanism
   - Hold on plavix for same as above plus surgery has not been ruled out
   - Trend enzymes Q8H until peak confirmed
   .
   # Probable endocarditis: Patient with 1 major and 3 minor criteria with
   fever, mechanical valve, evidence of emobolic disease with splenic
   infarct, and blood culture data not meeting specific major criterion)
   however, clinically patient with high suspicion for infective
   endocarditis, and concern for splenic infarction, and increasing PR
   interval (which is most likely secondary to new nodal blockade however
   cannot r/o mycotic aneurysm). It is very unfortunate that he did not
   receive endocarditis prophylaxis during his 2 rigorous dental
   cleanings. Alternative diagnosis are splenic infarct from embolic event
   from a fib, unlikely as does not explain blood cx and pt was
   therapeutic with INR.
   - Consider requesting reevaluation by surgery in light of splenic
   infarction, worsening PR interval, and possible thromboembolic coronary
   occlusion leading to NSTEMI
   - Consider repeat TEE given worsening PR delay
   - Continue penicillin x 6 weeks and gentamicn x 2 weeks (start date
   [**2151-5-6**])
   - Daily surveillance blood cultures
   - Daily EKGs to monitor PR when in sinus
   - ID recs, appreciate their input
   - Check RF to evaluate for immunologic disease which would count as a
   5th minor criteria and help confirm the diagnosis
   - Hold BB given worsening PR delay
   .
   # Atrial fibrillation, rate controlled with BB. Coumadin being held in
   setting of supratherapeutic INR. Goal INR 2.5-3.5 for valve and afib.
   - monitor on telemetry
   - continue BB
   - holding coumadin for supratherapeutic INR, will restart once INR
   <2.5.
   # Coagulopathy: Supratherapeutic secondary most likely to antibiotics.
   - Hold warfarin for now
   - No role for reversal as pt at high risk for thrombotic complication
   with mechanical valve
   .
   # Aminitis: Most likely secondary to zosyn as was started on [**2151-5-4**]
   and stopped on transfer on [**2151-5-6**] and has been trending down since.
   [**Month (only) 60**] be secondary to statin, however pt had been on statin in [**2147**] and
   had normal LFTs so less likely. Thromboembolic disease to liver is also
   possible, less likely given lack of CT abnormalities. Viral hepatitis
   possible
   - Monitor
   - Add on viral serologies
   - If continues to worsen, obtain RUQ U/S
   .
   # Normocytic anemia: Unclear etiology, baseline in high 20s low 30s.
   - Check iron studies, B12, folate
   - Guiac all stools
   - Schedule outpatient colonoscopy if not already completed
   .
   # HLD:
   - atorva 80 per above
   .
   # FEN: NPO for possible repeat TEE today, replete lytes prn
   .
   ACCESS: 2 PIV's
   .
   PROPHYLAXIS:
   -DVT ppx with supratherapeutic INR
   -Pain management with tylenol
   -Bowel regimen
   .
   CODE: Confirmed full
   .
   COMM: with patient
   .
   DISPO: CCU for now
   ICU Care
   Nutrition: NPO for now
   Glycemic Control:
   Lines:
   20 Gauge - [**2151-5-12**] 10:00 PM
   20 Gauge - [**2151-5-12**] 10:00 PM
   Prophylaxis:
   DVT: Supratherapeutic INR
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: Pt
   [**Name (NI) 66**] status: Confirmed full code
   Disposition: CCU
   ------ Protected Section ------
   Attending
sNote
   Reviewed data and examined Pt
   Agree with treatment and notes of dr.[**Last Name (STitle) **]
   [**First Name4 (NamePattern1) 1626**] [**Last Name (NamePattern1) **]
   ------ Protected Section Addendum Entered By:[**Name (NI) 1626**] [**Name (NI) **],MD
   on:[**2151-5-13**] 13:24 ------